US03965193
100 parts of 3-methyl-2 -buten-1-ol and 50 parts of 3,3-dimethylacrolein are heated for ninety minutes at 200°C and a pressure of 40 atmospheres in a rocking autoclave having a capacity of 250 parts by volume. The reaction product is worked up by distillation. 12.5 parts of citral is obtained having a boiling point of 104°C at 12 mm. The yield (based on 3,3-dimethylacrolein) is 53% of theory at a conversion of 26%.

reactant | 3-methyl-2 -buten-1-ol | CC(=CCO)C | C5H10O
reactant | 3,3-dimethylacrolein | CC(=CC=O)C | C5H8O
product | citral | CC(C)=CCCC(C)=CC=O | C10H16O
